US08193378B2
To 1-tert-butyl 3-methyl 3-fluoropyrrolidine-1,3-dicarboxylate (100 mg) was added a mixed solution of concentrated hydrochloric acid (1 mL) and AcOH (0.2 mL) at 0° C. The reaction mixture was warmed to room temperature, stirred for 1 hour, and then stirred at 100° C. for 5 hours. After confirming that the starting materials were lost, the resultant was concentrated under reduced pressure and then azeotroped with toluene three times. The residue was dissolved in a mixed liquid of acetone (0.6 mL) and water (1 mL), and Na2CO3 (64 mg) and DIBOC (132 mg) were added thereto at 0° C., followed by warming to room temperature and then stirring for 15 hours. The reaction mixture was concentrated under reduced pressure and acetone was evaporated. To the residue was added diethylether for liquid separation. The aqueous layer was combined, cooled to 0° C., and adjusted to pH=2 to 3 with 2 M hydrochloric acid. EtOAc was added thereto for extraction. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure to obtain 1-(tert-butoxycarbonyl)-3-fluoropyrrolidine-3-carboxylic acid (70 mg) as a white solid.

reactant | 1-tert-butyl 3-methyl 3-fluoropyrrolidine-1,3-dicarboxylate | 100 mg | FC1(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C11H18FNO4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | AcOH | 0.2 mL | CC(=O)O | C2H4O2
product | 1-(tert-butoxycarbonyl)-3-fluoropyrrolidine-3-carboxylic acid | 70 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)O)F | C10H16FNO4
